US04429152
4-(3-Carbamoyl-2,4,6-tribromophenoxy)butyric Acid
18 g (36.9 mmol) of 4-(3-carbamoyl-2,4,6-tribromophenoxy)butyric acid ethyl ester is suspended in 180 ml of water and, after adding 10 ml of concentrated sodium hydroxide solution, saponified at 60° C. within three hours. The solution is filtered over active carbon and brought to pH 1 by the dropwise addition of concentrated hydrochloric acid. After several hours of agitation in an ice bath, the resultant precipitate is vacuum-filtered, washed with water, and dried at 60° C. Yield: 15 g (88% of theory) of 4-(3-carbamoyl-2,4,6-tribromophenoxy)butyric acid as a white powder, mp 193°-194° C.

reactant | 4-(3-carbamoyl-2,4,6-tribromophenoxy)butyric acid ethyl ester | 36.9 mmol, 18 g | C(C)OC(CCCOC1=C(C(=C(C=C1Br)Br)C(N)=O)Br)=O | C13H14Br3NO4
reactant | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | water | 180 ml | O | H2O
product | 4-(3-Carbamoyl-2,4,6-tribromophenoxy)butyric Acid | C(N)(=O)C=1C(=C(OCCCC(=O)O)C(=CC1Br)Br)Br | C11H10Br3NO4
